US09334286B2
Preparation 49: 3-Chloro-6-(2H-1,2,3-triazol-4-yl)isoquinoline
3-chloro-6-ethynylisoquinoline (Preparation 50, 120 mg, 0.64 mmol) was dissolved in dry DMF (1 mL). Azidotrimethylsilane (1 mL, 7.5 mmol) was added and the reaction stirred at 120° C. for 2 hours. The reaction was cooled to room temperature and diluted with ethyl acetate (20 mL). The organic solution was washed with water (20 mL), brine (20 mL), dried over sodium sulphate and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with 2% 7N NH3 in methanol in DCM followed by elution through an SCX-2 column using 50% methanol in chloroform followed by 50% 7N NH3 in methanol in chloroform to afford the title compound as a pale brown powder (90 mg, 61%).

reactant | 3-chloro-6-ethynylisoquinoline | 0.64 mmol, 120 mg | ClC=1N=CC2=CC=C(C=C2C1)C#C | C11H6ClN
reactant | Azidotrimethylsilane | 7.5 mmol, 1 mL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 3-Chloro-6-(2H-1,2,3-triazol-4-yl)isoquinoline | 90 mg, 61% | ClC=1N=CC2=CC=C(C=C2C1)C1=NNN=C1 | C11H7ClN4
